US08937091B2
1-methoxy-4-tigloylbenzene 8233
Anisole (128 mg), tigloyl chloride (140 mg), and aluminium chloride (155 mg) were reacted in dichloromethane (1.5 mL) at from 0° C. to room temperature for 4 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (63 mg).

reactant | Anisole | 128 mg | C1(=CC=CC=C1)OC | C7H8O
reactant | tigloyl chloride | 140 mg | C(\C(\C)=C\C)(=O)Cl | C5H7ClO
reactant | aluminium chloride | 155 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 1-methoxy-4-tigloylbenzene | 63 mg | COC1=CC=C(C=C1)C(\C(\C)=C\C)=O | C12H14O2
